US04207326
Reaction of 3,5-dimethyl-1-octadecyl-pyrazole with benzyl bromide yields 2-benzyl-3,5-dimethyl-1-octadecyl-pyrazolium bromide; m.p. 165.5°-167.5° C.

reactant | 3,5-dimethyl-1-octadecyl-pyrazole | CC1=NN(C(=C1)C)CCCCCCCCCCCCCCCCCC | C23H44N2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 2-benzyl-3,5-dimethyl-1-octadecyl-pyrazolium bromide | [Br-].C(C1=CC=CC=C1)N1[N+](=C(C=C1C)C)CCCCCCCCCCCCCCCCCC | InChI=1S/C30H51N2.BrH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-22-25-31-28(2)26-29(3)32(31)27-30-23-20-19-21-24-30;/h19-21,23-24,26H,4-18,22,25,27H2,1-3H3;1H/q+1;/p-1
